Name:  ___.              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
Chest and Back Pain
 
Major Surgical or Invasive Procedure:
___ - Left heart catheterization, balloon angioplasty but no 
stenting

 
History of Present Illness:
___ y.o. with HTN, AAA, and CAD s/p CABG (___), Diagonal artery 
stent (___) and abnormal stress test ___ (LVEF 53% with 
inferior ischemia), presents with chest and back pain. The 
patient reports that his chest and back pain started yesterday 
morning. He reports that pain has exterional, substneral, 
radiating to his back not associated diaphoresis, nausea, or 
vomiting. He subsequently presented to ___, where 
trop neg.  He continued to have left sided back pain rated ___. 
 Overnight was given nitro and morphine and dropped BP.  
Improved with fluid bolus.  He had a CT scan to eval his AAA 
last night- showing 4.5 x 4.4. no dissection.  Pain is only 
resolved when he sits up and leans forward. He was transferred 
to ___ for cardiac catheterization.

At ___, the patient had a LHC (L wrist access) which was 
remarkable for in-stent restenosis of diag stent, LCX chronic 
total occlusion crossed with a wire dilated with balloon but 
unable to place stent.  He received 300cc dye.  The patient was 
continued on ASA and Clopidogrel. On the floor, the patient the 
patient continued to complain of ___ chest and back pain, but 
denied any dyspnea, lightheadedness, or orthopnea. 

ROS: As per HPI, otherwise negative in detail.
 
Past Medical History:
Coronary artery bypass graft in ___,  According to old
records, his saphenous vein grafts were down within two weeks
of the coronary artery bypass graft. only LIMA to LAD known 
patent,  Successful stenting of the D1 in ___.
2.  Stable angina.
3.  Hypertension.
4.  Hypercholesterolemia.
5.  Psoriatic arthritis.
6.  Rectal polyp.
7. Popliteal artery aneurysm, followed by Dr. ___.
8. abdominal aortic aneurysm

 
Social History:
___
Family History:
Mother and father had MI. Brother died of aneurysm.  
 
Physical Exam:
ON ADMISSION:
VS: T 97.4 HR ___ BP 131/87 RR 18 SpO2 96-97% RA
GENERAL: Well-appearing in NAD 
HEENT: Sclera clear.
NECK: Supple with JVP of 7-8 cm.  
CHEST: Well-healed sternotomy scar. No reproducible chest pain 
on palpation of sternum of rubs. 
CARDIAC: RRR, no m,r,g. Normal S1 and S2.
LUNGS: No wheezing, crackles, or rhonci. 
ABDOMEN: Soft, NTND. No HSM or tenderness.  
EXTREMITIES: No c/c/e. No femoral bruits.  
SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.  
PULSES:  Distal pulses palpable and symmetric

ON DISCHARGE:
VS: Tmax 98.4 Tc 97.9 HR ___ BP 115/64-147/73 RR ___ SpO2 
95-98% RA, I/O 24h 360/350, 8h NR/NR
GENERAL: Well-appearing in NAD 
HEENT: Sclera clear.
NECK: Supple with JVP of 7-8 cm.  
CHEST: Well-healed sternotomy scar. No reproducible chest pain 
on palpation of sternum of rubs. 
CARDIAC: RRR, no m,r,g. Normal S1 and S2.
LUNGS: No wheezing, crackles, or rhonci. 
ABDOMEN: Soft, NTND. No HSM or tenderness.  
EXTREMITIES: No c/c/e. No femoral bruits.  
SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.  
PULSES:  Distal pulses palpable and symmetric

 
Pertinent Results:
ADMISSION LABS:
___ 08:30PM BLOOD WBC-8.8 RBC-4.88 Hgb-14.5 Hct-42.8 MCV-88 
MCH-29.6 MCHC-33.8 RDW-13.6 Plt ___
___ 01:00PM BLOOD ___ PTT-37.8* ___
___ 08:30PM BLOOD ___ PTT-52.5* ___
___ 08:30PM BLOOD Glucose-99 UreaN-11 Creat-0.7 Na-141 
K-4.2 Cl-103 HCO3-26 AnGap-16
___ 02:38PM BLOOD cTropnT-<0.01
___ 08:30PM BLOOD cTropnT-<0.01
___ 08:30PM BLOOD Calcium-9.0 Phos-4.2 Mg-1.9

DISCHARGE LABS:
___ 07:40AM BLOOD WBC-9.5 RBC-4.80 Hgb-14.3 Hct-42.3 MCV-88 
MCH-29.8 MCHC-33.8 RDW-13.9 Plt ___
___ 07:40AM BLOOD Plt ___
___ 07:40AM BLOOD Glucose-88 UreaN-10 Creat-0.9 Na-140 
K-3.7 Cl-106 HCO3-25 AnGap-13
___ 07:40AM BLOOD Calcium-9.2 Phos-3.5 Mg-2.0

IMAGING:

EKG ___:
Sinus rhythm with premature atrial contractions. Likely, left 
ventricular hypertrophy. Compared to the previous tracing of 
___ wave changes are no longer present.
TRACING #1
 
Read ___.
 IntervalsAxes
___
___

EKG ___:
Sinus rhythm with premature atrial contractions. Findings are 
similar
to tracing #1.
TRACING #2
 
Read ___.
 IntervalsAxes
___
___

LEFT CARDIAC CATHETERIZATION ___:
In-stent restenosis of diag stent, LCX chronic total occlusion 
crossed with a wire dilated with balloon but unable to place 
stent.    

MICROBIOLOGY:
None

 
Brief Hospital Course:
___ y.o. with HTN, AAA, and CAD s/p CABG (___), Diagonal artery 
stent (___) and abnormal stress test ___ (LVEF 53% with 
inferior ischemia), presents with chest and back pain.

 ***PATIENT ELOPED BEFORE BEING EVALUATED BY ATTENDING AT 
DISCHARGE***

# Chest Pain/Coronary Artery Disease: Pt is s/p CABG (___), 
stent to diagonal artery. LHC  ___ notable for in-stent 
stenosis at diagonal artery and chronic total occlusion in LCx 
crossed with a wire dilated with balloon but unable to place 
stent. The patient was continued on his home ASA, Clopidogrel, 
Atorvastatin and started on Carvedilol 6.25 mg PO BID. The 
patient will need to return in 4 weeks for PCI.
 
# Abdominal Aortic Aneurysm: Stable, recent OSH Abdominal CT 
showed 4.5 x 4.4. with no evidence of dissection. No 
interventions during this hospitalization. 

CHRONIC ISSUES:

# Hypertension:
-Discontinued home Labetolol 200 mg PO QDaily
-Started Carvedilol 6.25 mg PO BID as above

# Hyperlipidemia:
-Continued Atorvastain 80 mg PO QDaily as above 

# Hypothyroidism:
-Continued home Levothyroxine 100 mcg PO QDaily

# Lichen Sclerosis:
-Continued home Pramosone 1% topical QDaily 

TRANSITIONAL ISSUES:
[]CODE STATUS: Full
[]Patient will need to continue ASA and Clopidogrel 75 mg PO 
QDaily
[]Patient's home Labetolol discontinued, started on Carvedilol 
6.25 mg PO BID
[]Patient will need Cardiology and PCP ___ 
[]Patient will need to return in 4 weeks to have percutaneous 
intervention (PCI)
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Aspirin 325 mg PO DAILY 
2. Atorvastatin 80 mg PO QPM 
3. Levothyroxine Sodium 100 mcg PO DAILY 
4. Nitroglycerin SL 0.3 mg SL Q5MIN:PRN Chest Pain 
5. Multivitamins 1 TAB PO DAILY 
6. Vitamin D 1000 UNIT PO DAILY 
7. Pramosone (hydrocortisone-pramoxine) ___ % topical DAILY 
8. Labetalol 200 mg PO BID 

 
Discharge Medications:
1. Aspirin 325 mg PO DAILY 
2. Atorvastatin 80 mg PO QPM 
3. Levothyroxine Sodium 100 mcg PO DAILY 
4. Multivitamins 1 TAB PO DAILY 
5. Nitroglycerin SL 0.3 mg SL Q5MIN:PRN Chest Pain 
6. Vitamin D 1000 UNIT PO DAILY 
7. Carvedilol 6.25 mg PO BID 
RX *carvedilol 6.25 mg 1 tablet(s) by mouth twice a day Disp 
#*60 Tablet Refills:*0
8. Clopidogrel 75 mg PO DAILY 
RX *clopidogrel 75 mg 1 tablet(s) by mouth DAILY Disp #*30 
Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Unstable angina
Hypertension

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___, 

You were admitted for back and chest pain.  Fortunately, there 
was no evidence of a heart attack based on blood tests 
evaluating your cardiac enzymes, which are released when there 
is injury to the heart muscle.

You underwent cardiac catheterization, which showed stenosis of 
your previous stent (in the diagonal artery), and a chronic 
blockage of a native artery (the left circumflex artery).  
Unfortunately, while they were able to dilate the blockage with 
a balloon, they were unable to place a stent.  

We made some medication changes to treat your coronary artery 
disease.  Please see the attached medication sheet for details.  
The interventional cardiologists recommended a second attempt at 
percutaneous intervention in ___.  

It was a pleasure being involved in your care, 
Your ___ Care Team
 
Followup Instructions:
___